US07371872B2
(1S,2S,4S,5R,6R)-4-Acetyloxy-2-aminobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester
Dissolve (1S,2S,4S,5R,6R)-4-acetyloxy-2-(tert-butoxycarbonyl)aminobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester (1.25 g, 3.13 mmol, Preparation 19) in a solution of 95% TFA in dichloromethane (60 mL) and stir under nitrogen at room temperature for 5 minutes. After this time remove the TFA/dichloromethane in vacuo. Dissolve the crude product in a suspension of NaHCO3 (1.00 g) in dichloromethane (50 mL) and stir for 30 minutes. Filter the suspension, wash with dichloromethane (3×25 mL), and concentrate in vacuo to afford 916 mg (98%) of the product as a yellow oil.

reactant | (1S,2S,4S,5R,6R)-4-acetyloxy-2-(tert-butoxycarbonyl)aminobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 3.13 mmol, 1.25 g | C(C)OC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)OC(C)=O)C(=O)OCC)NC(=O)OC(C)(C)C | C19H29NO8
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (1S,2S,4S,5R,6R)-4-Acetyloxy-2-aminobicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 916 mg, 98% | C(C)OC(=O)[C@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)OC(C)=O)C(=O)OCC)N | C14H21NO6
